US04061637
4-p-fluorophenyl-5-β-[4'-hydroxy-4'-(p-chlorophenyl)-piperidino]ethyl-4-thiazolin-2-one hydrochloride
A mixture of 10 g of 4-p-fluorophenyl-5-β-chloroethyl-4-thiazolin-2-one, 16.4 g of 4-hydroxy-4-(p-chlorophenyl)-piperidine, and a catalytic quantity of KI in 200 cc of toluene is heated in a closed tube for 35 hours. The solid present is filtered off and the filtrate is shaken with a 1:1 solution of HCl. A solid precipitates and is dissolved in acetone and recrystallised. M.P. = 192° C (from alcohol).

reactant | 4-p-fluorophenyl-5-β-chloroethyl-4-thiazolin-2-one | 10 g | FC1=CC=C(C=C1)C=1NC(SC1CCCl)=O | C11H9ClFNOS
reactant | 4-hydroxy-4-(p-chlorophenyl)-piperidine | 16.4 g | OC1(CCNCC1)C1=CC=C(C=C1)Cl | C11H14ClNO
solvent | toluene | 200 cc | C1(=CC=CC=C1)C | C7H8
product | 4-p-fluorophenyl-5-β-[4'-hydroxy-4'-(p-chlorophenyl)-piperidino]ethyl-4-thiazolin-2-one hydrochloride | Cl.FC1=CC=C(C=C1)C=1NC(SC1CCN1CCC(CC1)(C1=CC=C(C=C1)Cl)O)=O | InChI=1S/C22H22ClFN2O2S.ClH/c23-17-5-3-16(4-6-17)22(28)10-13-26(14-11-22)12-9-19-20(25-21(27)29-19)15-1-7-18(24)8-2-15;/h1-8,28H,9-14H2,(H,25,27);1H
